US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)piperidine-3,5-dicarboxylic acid
Dimethylpyridine-3,5-dicarboxylate (62.8 g) was dissolved in acetic acid (300 mL), 5% rhodium-carbon (6 g) was added and the mixture was stirred under hydrogen pressurization (5 atm) at 50° C. for 20 hr. The reaction mixture was allowed to cool to room temperature, the rhodium catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (300 mL), and triethylamine (180 mL) and di-tert-butyl bicarbonate (105 g) were successively added under ice-cooling. The reaction mixture was stirred at room temperature for 15 hr, and concentrated under reduced pressure. The residue was dissolved in water, and the mixture was adjusted to pH 3 with 6M hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extraction layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in methanol (300 mL), and 8N aqueous sodium hydroxide solution (161 mL) was added dropwise at room temperature. The reaction mixture was stirred at room temperature for 20 hr, and methanol was evaporated under reduced pressure. The concentrate was diluted with saturated aqueous sodium hydrogen carbonate solution (100 ml) and washed twice with diethyl ether. The basic aqueous layer was acidified (pH 3) with 6M hydrochloric acid. The precipitated powder was collected by filtration, washed with water and air-dried to give the object product (80.5 g) as a powder.

reactant | Dimethylpyridine-3,5-dicarboxylate | 62.8 g | COC(=O)C=1C=NC=C(C1)C(=O)OC | C9H9NO4
reactant | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
catalyst | rhodium-carbon | 6 g | [C].[Rh]
product | (3R,5S)-1-(tert-butoxycarbonyl)piperidine-3,5-dicarboxylic acid | 80.5 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)C(=O)O)C(=O)O | C12H19NO6
